US07498440B2
Preparation of 4-[hydroxy(diphenyl)methyl]-1-nonyl-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0561 g, 0.191 mmol) and 1-bromononane (0.055 mL, 0.288 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0435 g, 45.8%). EI-MS m/z 420(M+) Rt (2.34 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.191 mmol, 0.0561 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-bromononane | 0.288 mmol, 0.055 mL | BrCCCCCCCCC | C9H19Br
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-[hydroxy(diphenyl)methyl]-1-nonyl-1-azoniabicyclo[2.2.2]octane bromide | 0.0435 g, 45.8% | [Br-].OC(C12CC[N+](CC1)(CC2)CCCCCCCCC)(C2=CC=CC=C2)C2=CC=CC=C2 | InChI=1S/C29H42NO.BrH/c1-2-3-4-5-6-7-14-22-30-23-19-28(20-24-30,21-25-30)29(31,26-15-10-8-11-16-26)27-17-12-9-13-18-27;/h8-13,15-18,31H,2-7,14,19-25H2,1H3;1H/q+1;/p-1
